US09079866B2
2-Bromo-N-cyclohexylbenzenesulfonamide
To a 20 mL vial were added a stirbar, 2-bromobenzene-1-sulfonyl chloride (1.053 g, 4.12 mmol), cyclohexylamine (431 mg, 4.34 mmol) and dry pyridine (5 mL). The mixture was stirred for 3 hours before adding it to a separatory funnel containing 1 N HCl and EtOAc. The layers were mixed thoroughly and then separated. The organic layer was then washed with water followed by sat. NaHCO3, dried over MgSO4, filtered and evaporated to dryness to give the title compound. MS (ESI): mass calcd. for C12H16NO2SBr 317.01, m/z found 318.0 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 8.14 (dd, J=7.9, 1.7, 1H), 7.71 (dd, J=7.9, 1.2, 1H), 7.49-7.42 (m, 1H), 7.42-7.35 (m, 1H), 5.05 (d, J=7.7, 1H), 3.19-3.04 (m, 1H), 1.79-1.66 (m, 2H), 1.66-1.57 (m, 2H), 1.52-1.44 (m, 1H), 1.28-1.04 (m, 5H).

reactant | 2-bromobenzene-1-sulfonyl chloride | 4.12 mmol, 1.053 g | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | cyclohexylamine | 4.34 mmol, 431 mg | C1(CCCCC1)N | C6H13N
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Bromo-N-cyclohexylbenzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC1CCCCC1 | C12H16BrNO2S
